US06159904
6-Carboxy-3,3,5,8-tetramethylthiochroman-4-one
A mixture containing 10.8 g (41 mmol) of 6-acetyl-3,3,5,8-tetramethylthiochroman-4-one, 12.6 g (50 mmol) of iodine and 9.8 g (124 mmol) of pyridine was heated at 110~110° C. for 6 hours. After the completion of the reaction, excess pyridine was distilled off under reduced pressure, and to the residue were added 50 ml of ethylene glycol, 20 ml of water and 11 g (167 mmol) of potassium hydroxide. The mixture was refluxed under heat for 2 hours. After the reaction mixture was allowed to cool, 200 ml of a 1 wt % sodium hydroxide aqueous solution was added, and an aqueous layer was washed with chloroform twice and then acidified with a 5 wt % hydrochloric acid aqueous solution. A precipitated grey solid was collected by filtration under reduced pressure, washed with water and then dried under reduced pressure to give 10.3 g (yield 95%) of the title compound.

reactant | 6-acetyl-3,3,5,8-tetramethylthiochroman-4-one | 41 mmol, 10.8 g | C(C)(=O)C=1C(=C2C(C(CSC2=C(C1)C)(C)C)=O)C | C15H18O2S
reactant | iodine | 50 mmol, 12.6 g | II | I2
reactant | potassium hydroxide | 167 mmol, 11 g | [OH-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | ethylene glycol | 50 ml | C(CO)O | C2H6O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 124 mmol, 9.8 g | N1=CC=CC=C1 | C5H5N
product | 6-Carboxy-3,3,5,8-tetramethylthiochroman-4-one | 10.3 g, yield 95% | C(=O)(O)C=1C(=C2C(C(CSC2=C(C1)C)(C)C)=O)C | C14H16O3S
